US09260400B2
4-[2-(4-Methoxyphenyl)phenyl]-N-(2-pyridinylmethyl)-1-piperazinehexanamide
A stirred mixture of 6-bromo-N-(2-pyridylmethyl)hexanamide (0.60 g, 2.1 mmol), 1-[2-(4-methoxyphenyl)phenyl]piperazine (0.68 g, 2.5 mmol) and K2CO3 (3.5 mmol) in acetonitrile was refluxed overnight. After cooling, the mixture was evaporated to dryness and H2O (20 mL) was added to the residue. The aqueous phase was extracted with AcOEt (2×30 mL). The collected organic layers were dried over Na2SO4 and evaporated under reduced pressure. The crude residue was chromatographed (CHCl3/MeOH, 19:1, as eluent) to afford pure compound in 60% yield. 1H NMR (CDCl3): δ 1.35-1.42 (m, 2H), 1.53-1.63 (m, 2H), 1.68-1.78 (m, 2H), 2.28 (t, 2H, J=7.4 Hz), 2.42 (app. t, 2H), 2.65 (br s, 4H), 3.09 (br s, 4H), 3.81 (s, 3H), 4.45 (d, 2H, J=6.1 Hz), 6.12 (br t, 1H, D2O exchanged), 6.94 (d, 2H, J=8.8 Hz), 7.00 (d, 1H, J=8.0 Hz), 7.09-7.16 (m, 2H), 7.22-7.30 (m, 3H), 7.46 (d, 2H, J=8.8 Hz), 8.58 (m, 1H). GC-MS m/z 473 (M+1, 1), 472 (M+, 5), 379 (20), 282 (50), 226 (100), 210 (35).

reactant | 6-bromo-N-(2-pyridylmethyl)hexanamide | 2.1 mmol, 0.60 g | BrCCCCCC(=O)NCC1=NC=CC=C1 | C12H17BrN2O
reactant | 1-[2-(4-methoxyphenyl)phenyl]piperazine | 2.5 mmol, 0.68 g | COC1=CC=C(C=C1)C1=C(C=CC=C1)N1CCNCC1 | C17H20N2O
reactant | K2CO3 | 3.5 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[2-(4-Methoxyphenyl)phenyl]-N-(2-pyridinylmethyl)-1-piperazinehexanamide | 60% yield | COC1=CC=C(C=C1)C1=C(C=CC=C1)N1CCN(CC1)CCCCCC(=O)NCC1=NC=CC=C1 | C29H36N4O2
